US08293897B2
N-(5 (7 (3 (1 hydroxycyclopropyl)propoxy)quinolin-4-yloxy)pyridin-2-yl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide
The title compound was prepared according to the procedure described in Example 9 by using N-(5-(7-hydroxyquinolin-4-yloxy)pyridin-2-yl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide (277 mg, 0.593 mmol), Cs2CO3 (560 mg, 1.724 mmol, Aladdin), and 3-(1-hydroxycyclopropyl)propyl methanesulfonate (334 mg, 1.724 mmol) in DMA (10 mL). The title compound was purified by a silica gel column chromatography (67:30:1:2 (v/v/v/v) EtOAc/CH2Cl2/CH3OH/Et3N) to afford the title compound as a white solid (210 mg, 62.6%).

reactant | N-(5-(7-hydroxyquinolin-4-yloxy)pyridin-2-yl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 0.593 mmol, 277 mg | OC1=CC=C2C(=CC=NC2=C1)OC=1C=CC(=NC1)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O | C26H21N5O4
reactant | Cs2CO3 | 1.724 mmol, 560 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 3-(1-hydroxycyclopropyl)propyl methanesulfonate | 1.724 mmol, 334 mg | CS(=O)(=O)OCCCC1(CC1)O | C7H14O4S
solvent | DMA | 10 mL | CC(=O)N(C)C | C4H9NO
product | N-(5 (7 (3 (1 hydroxycyclopropyl)propoxy)quinolin-4-yloxy)pyridin-2-yl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 210 mg, 62.6% | OC1(CC1)CCCOC1=CC=C2C(=CC=NC2=C1)OC=1C=CC(=NC1)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O | C32H31N5O5
